US06956049B1
Sodium hydride (102 mg of a 60% suspension in mineral oil, 4.3 mmol) was slurried in dry 1,2-dimethoxyethane (DME) under argon, cooled to 0° C. in an ice bath, and diethylbenzyl phosphonate (0.89 mL, 4.3 mmol) was added dropwise to the suspension. Thirty minutes after the completion of the phosphonate addition, 4-methylthiazole-2-carboxaldehyde (120 mg, 0.94 mmol) was added as a solution in DME (5 mL). After stirring for 4 h, further NaH (40 mg of a 60% suspension in mineral oil, 1.0 mmol) was added and the reaction mixture was allowed to warm to ambient temperature and stir for 16 h. The reaction mixture was quenched by the addition of water (20 mL) and ethyl acetate (50 mL). The aqueous phase was extracted with ethyl acetate (2×30 mL), the combined organics were dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by column chromatography on silica gel eluting with 90:10 hexane:ethyl acetate to afford 4-methyl-2-[2-phenylethenyl]-1,3-thiazole (30 mg, 16% yield) as an oil. 1H NMR analysis showed the material to be a 10:1 mixture of E and Z isomers (spectral data are reported for the major isomer). 1H NMR (CDCl3,300 MHz) δ: 7.54-7.51 (m, 2H) 7.42-7.23 (m, 5H) 6.80 (s, 1H) 2.47 (s, 3H). MS (ESI) (minor isomer) 202.2 (M++H), (major isomer) 201.6 (M+).

reactant | Sodium hydride | [H-].[Na+]
reactant | diethylbenzyl phosphonate | 4.3 mmol, 0.89 mL | P(OC(C1=CC=CC=C1)(CC)CC)([O-])=O
reactant | phosphonate | P([O-])([O-])=O
reactant | 4-methylthiazole-2-carboxaldehyde | 0.94 mmol, 120 mg | CC=1N=C(SC1)C=O | C5H5NOS
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
solvent | DME | 5 mL | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-methyl-2-[2-phenylethenyl]-1,3-thiazole | 30 mg, 16% yield | CC=1N=C(SC1)C=CC1=CC=CC=C1 | C12H11NS
